* design - only spice components

.subckt ramp_generator_init_k vref vini vc0 vc1 vc2 vc3 vc4 ramp vdd gnd reset
    xrladder vref vx vc0 vc1 vc2 vc3 vc4 vdd gnd rladdern
    xopamp vdd vx gnd ramp gnd opamp
    C1 vx ramp 20p m=1

    xrinitlo vx   reset gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    xrinithi vini reset ramp gnd sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
.ends

.subckt ramp_generator_init_c vref vini vc0 vc1 vc2 vc3 vc4 ramp vdd gnd reset
    xrladder vref vx vc0 vc1 vc2 vc3 vc4 vdd gnd rladdern
    xopamp vdd vx gnd ramp gnd opamp
    C1 vx vc 20p m=1
    V1 net3 net4 1
    vim vc ramp 0

    XM2 net3 reset ramp gnd sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
    + as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
    + nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
    XM3 net4 reset vx gnd sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
.ends

.subckt ramp_generator vref vc0 vc1 vc2 vc3 vc4 ramp vdd gnd reset
    xrladder vref vx vc0 vc1 vc2 vc3 vc4 vdd gnd rladdern
    xopamp vdd vx gnd ramp gnd opamp
    C1 vx vc 20p m=1
    vim ramp vc 0

    XMR ramp reset vx vx sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
.ends

.subckt ramp_generator_fixed vref reset out vdd gnd c=20p r=12.7Meg
   C1  vx   out  {c} m=1
   R1  vref vx   {r} m=1
   XMR out  reset vx vx sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
   + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
   + sa=0 sb=0 sd=0 mult=1 m=1
   xopamp vdd vx gnd out gnd opamp
.ends

.subckt rladdern va vb vc0 vc1 vc2 vc3 vc4 vdd gnd
    RS va vm 7.5Meg m=1
    R4 vm v4 15Meg  m=1
    R3 vm v3 9Meg   m=1
    R2 vm v2 6Meg   m=1
    R1 vm v1 4Meg   m=1
    R0 vm v0 3Meg   m=1
    XM4 v4 vc4 vb gnd sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM3 v3 vc3 vb gnd sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM2 v2 vc2 vb gnd sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM1 v1 vc1 vb gnd sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM0 v0 vc0 vb gnd sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
.ends

.subckt rladderp va vb vc0 vc1 vc2 vc3 vc4 vdd gnd
    RS va vm 7.5Meg m=1
    R4 vm v4 15Meg  m=1
    R3 vm v3 9Meg   m=1
    R2 vm v2 6Meg   m=1
    R1 vm v1 4Meg   m=1
    R0 vm v0 3Meg   m=1
    XM4 v4 vc4 vb vdd sky130_fd_pr__pfet_01v8 L=0.15 W=18 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM3 v3 vc3 vb vdd sky130_fd_pr__pfet_01v8 L=0.15 W=18 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM2 v2 vc2 vb vdd sky130_fd_pr__pfet_01v8 L=0.15 W=18 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM1 v1 vc1 vb vdd sky130_fd_pr__pfet_01v8 L=0.15 W=18 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
    XM0 v0 vc0 vb vdd sky130_fd_pr__pfet_01v8 L=0.15 W=18 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
    + pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
    + sa=0 sb=0 sd=0 mult=1 m=1
.ends


